US08242280B2
A mixture of hydroxy-{3-[1-hydroxymethyl-3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-acetic acid (0.1 g, 0.25 mmol), methylaminoacetonitrile (20 μl, 0.27 mmol), diisopropylethylamine (DIEA, 87 μl, 0.48 mmol), N,N,N′,N′,-Tetramethyl-O-(7-azabenotriazol-1-yl)uronium hexafluorophosphate (HATU, 101 mg, 0.27 mmol) in DMF (3 ml) was stirred at room temperature overnight. The reaction mixture was dissolved in 10 ml ethyl acetate and subsequently extracted with 1N HCl, saturated NaHCO3, brine, dried with Na2SO4, concentrated to dryness. The crude was purified by silica gel chromatography. The resulting material was dissolved in 3 ml of methanol, aqueous NaOH was added (1 ml, 2 N in H2O) and the mixture stirred overnight at room temperature. The solvent was removed under reduced pressure and the crude was neutralized with 500 μl of 1N HCl and purified by mass-triggered reverse phase HPLC to afford N-cyanomethyl-2-hydroxy-2-{3-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridine-5-yl]-phenyl}-N-methyl-acetamide as a yellow powder (56 mg, 53% yield). 1H NMR (500 MHz, DMSO-d6) δ 3.02 (s, 3H), 3.87 (s, 3H), 4.14 (s, 2H), 5.55 (s, 1H), 7.10 (m, 1H), 7.23 (d, 1H), 7.40 (d, 1H), 7.45-7.52 (m, 2H), 7.66 (d, 1H), 7.72 (m, 2H), 8.32 (s, 1H), 8.33 (s, 1H). MS: m/z 427.5 (M+H+).

reactant | hydroxy-{3-[1-hydroxymethyl-3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-acetic acid | 0.25 mmol, 0.1 g | OC(C(=O)O)C1=CC(=CC=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)CO | C22H19N3O5
reactant | methylaminoacetonitrile | 0.27 mmol, 20 μl | CNCC#N | C3H6N2
reactant | diisopropylethylamine | 0.48 mmol, 87 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-cyanomethyl-2-hydroxy-2-{3-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridine-5-yl]-phenyl}-N-methyl-acetamide | 56 mg, 53% yield | C(#N)CN(C(C(C1=CC(=CC=C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC)O)=O)C | C24H21N5O3
